US08048909B2
N-Methyl-1-{4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine hydrochloride
Using 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde (310 mg), methylammonium chloride (617 mg) and sodium cyanoborohydride (172 mg), a procedure as in Example 4 was performed to give the title compound as colorless crystals (yield 179 mg, 50%).

reactant | 4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carbaldehyde | 310 mg | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=O | C19H17NO3S
reactant | methylammonium chloride | 617 mg | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 172 mg | C(#N)[BH3-].[Na+]
product | N-Methyl-1-{4-methyl-1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methanamine hydrochloride | yield 179 mg, 50% | Cl.CNCC1=CN(C(=C1C)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C20H22N2O2S.ClH/c1-15-9-11-19(12-10-15)25(23,24)22-14-18(13-21-3)16(2)20(22)17-7-5-4-6-8-17;/h4-12,14,21H,13H2,1-3H3;1H
